### PR TITLE
[Merged by Bors] - feat(Algebra/Category/ModuleCat/Sheaf): `freeFunctor` preserves colimits

### PR DESCRIPTION
**Pull request by joelriou**
The functor `freeFunctor : Type u ⥤ SheafOfModules.{u} R` preserves all colimits.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean [hunk 1]
```diff
@@ -123,6 +134,67 @@ noncomputable def freeFunctor : Type u ⥤ SheafOfModules.{u} R where
   map_id X := (freeHomEquiv _).injective (by ext1 i; simp)
   map_comp {I J K} f g := (freeHomEquiv _).injective (by ext1; simp [freeHomEquiv_comp_apply])
 
+instance : PreservesColimitsOfSize.{v₂, u₂} (freeFunctor (R := R)) where
```
Comment (robin-carlier) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean:140]: Don’t we have `section` as a functor? It seems to me that it would be more principled to show that this functor is a left adjoint (we already have `freeHomEquiv`, which is "almost the result") and deduce that this it preserves colimits as such.

Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean:140]: The issue is that unless we use a terminal object in the index category, the sections are not in the right universe, which is the reason why I have used `freeHomEquiv`. I have just added a comment about this.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean [hunk 2]
```diff
@@ -104,6 +109,12 @@ lemma sectionMap_freeMap_freeSection (i : I) :
     sectionsMap (freeMap (R := R) f) (freeSection i) = freeSection (f i) := by
   simp [← freeHomEquiv_comp_apply]
 
+lemma sectionsMap_freeHomEquiv_symm_freeSection
+    {M : SheafOfModules.{u} R} (f : I → M.sections) (i : I) :
+    sectionsMap ((freeHomEquiv M).symm f) (freeSection i) = f i := by
+  obtain ⟨f, rfl⟩ := (freeHomEquiv M).surjective f
+  rw [Equiv.symm_apply_apply, freeHomEquiv_apply]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Free.lean]:
```suggestion
  cat_disch
```

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer merge
